US08030435B2
a) Preparation of (2,4,4-trimethyl-pentyl)-phosphinic acid
A mixture of diisobutylene (112 g, 1 mol) and hypophosphorous acid (30%, 230 mL) are reacted in the presence of t-butylperbenzoate. After aqueous work up, 45 g of oily product are obtained. It is characterized by 1H NMR and 31P NMR which shows formation of product (64% pure).

reactant | diisobutylene | 1 mol, 112 g | CC(=C)CC(C)(C)C | C8H16
reactant | t-butylperbenzoate | C(C)(C)(C)OOC(C1=CC=CC=C1)=O | C11H14O3
reactant | hypophosphorous acid | 230 mL | [PH2](=O)O | H3O2P
product | (2,4,4-trimethyl-pentyl)-phosphinic acid | 45 g | CC(CP(O)=O)CC(C)(C)C | C8H19O2P
